US04585638
N,N,N,N',N',N'-Hexapropylhexamethylenediammonium dibromide was synthesized by refluxing 100 grams (0.4 mole) of 1,6-dibromohexane with 140 grams (0.98 mole) of tripropylamine in 200 cc of methanol. The reaction took 24 hours and an oil was precipitated by addition of ether. The oil was redissolved in dimethylformamide. Addition of ether precipitated a white solid, which was separated from the liquid by filtration. It was washed with ether and dried at 50° C. in a vacuum. The composition of the product included:

reactant | 1,6-dibromohexane | 0.4 mole, 100 grams | BrCCCCCCBr | C6H12Br2
reactant | tripropylamine | 0.98 mole, 140 grams | C(CC)N(CCC)CCC | C9H21N
solvent | methanol | 200 cc | CO | CH4O
product | N,N,N,N',N',N'-Hexapropylhexamethylenediammonium dibromide | [Br-].[Br-].C(CC)[N+](CCCCCC[N+](CCC)(CCC)CCC)(CCC)CCC | InChI=1S/C24H54N2.2BrH/c1-7-17-25(18-8-2,19-9-3)23-15-13-14-16-24-26(20-10-4,21-11-5)22-12-6;;/h7-24H2,1-6H3;2*1H/q+2;;/p-2
